US09334269B2
To a stirred solution of 2-methanesulfonyl-phenol (2 g, 11.61 mmol) in THF (20 mL) 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (2.57 g, 12.77 mmol) was added followed by PPh3 (6.7 g, 25.54 mmol). The resulting reaction mixture was stirred at RT for 15 min. DEAD (4.5 g, 25.54 mmol) was added dropwise at 20° C. and the reaction mixture was stirred at RT for 18 h. After completion of the reaction (monitored by TLC, visualized by UV or ninhydrin), the mixture was concentrated under reduced pressure to obtain the crude material, which was further diluted with CH2Cl2 (50 mL). The CH2Cl2 layer was washed with water (3×100 mL) then dried over Na2SO4, filtered and concentrated under reduced pressure to obtain the crude material, which was further purified through silica gel column chromatography, using 8% EtOAc in hexanes to afford 4-(2-methanesulfonyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (2.6 g, 87%).

reactant | 2-methanesulfonyl-phenol | 11.61 mmol, 2 g | CS(=O)(=O)C1=C(C=CC=C1)O | C7H8O3S
reactant | THF | 12.77 mmol, 20 mL, 2.57 g | C1CCOC1 | C4H8O
reactant | PPh3 | 25.54 mmol, 6.7 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 25.54 mmol, 4.5 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-methanesulfonyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 2.6 g, 87% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=CC=C1)S(=O)(=O)C | C17H25NO5S
